US08003651B2
n-BuLi (1.60M in hexanes, 35.6 mL, 56.9 mmol) was added to a 0° C. solution of diisopropylamine (8.35 mL, 59.6 mmol) in THF (200 mL). The mixture was stirred at 0° C. for 30 minutes and then cooled to −78° C. A solution of methyl 2-(4-chlorophenyl)acetate (10.0 g, 54.2 mmol) in THF (10 mL) was added to the −78° C. LDA solution by syringe, which was then stirred for 45 minutes. Neat tert-butyl bromoacetate (9.60 mL, 65.0 mmol) was added by syringe, and the reaction was stirred for 15 minutes at −78° C. The bath was removed, and the reaction was allowed to warm to room temperature. After stirring an additional 5 hours, the reaction mixture was quenched with saturated NH4Cl solution, and the solvent(s) were removed in vacuo. The oily mixture was extracted with ethyl acetate, and the organics were combined. The organic portion was dried over MgSO4, filtered, and concentrated in vacuo. The crude oil was purified on silica gel (95:5 hexanes:EtOAc) to afford the 4-tert-butyl 1-methyl 2-(4-chlorophenyl)succinate as a pale yellow oil (14.3 g, 88%). 1H NMR (CDCl3, 400 MHz) δ 7.29 (d, J=7.2 Hz, 2H), 7.22 (d, J=7.2 Hz, 2H), 4.00 (dd, J=9.6, 5.6 Hz, 1H), 3.67 (s, 3H), 3.07 (dd, J=16.4, 9.6 Hz, 1H), 2.58 (dd, J=16.8, 6.0 Hz, 1H), 1.40 (m, 3H).

reactant | n-BuLi | 56.9 mmol, 1.60M, 35.6 mL | [Li]CCCC
reactant | diisopropylamine | 59.6 mmol, 8.35 mL | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-(4-chlorophenyl)acetate | 54.2 mmol, 10.0 g | ClC1=CC=C(C=C1)CC(=O)OC | C9H9ClO2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl bromoacetate | 65.0 mmol, 9.60 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl 1-methyl 2-(4-chlorophenyl)succinate | 14.3 g, 88% | ClC1=CC=C(C=C1)C(C(=O)OC)CC(=O)OC(C)(C)C | C15H19ClO4
